Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Demerol / Ativan / Bactrim
 
Attending: ___.
 
Chief Complaint:
Pneumonia
 
Major Surgical or Invasive Procedure:
none.

 
History of Present Illness:
___ female with history of chronic bronchiectasis who admitted 
from pulmonary clinic with complaints with worsening malaise, 
dyspnea noted to desaturate with ambulation and CT chest 
demonstrating worsening ground glass opacities consistent with 
PNA.  
.  
Patient presented to clinic today. There exam prompted CT which 
by report demonstrated findings consistent with PNA and decision 
made to admit patient for treatment of HCAP with plan for 
possible bronchoscopy on ___ if patient remains in house.  
.  
Upon transfer to the floor, pt reports that she has been feeling 
unwell since approximately ___, with shortness of breath, 
palpitations, and mild anxiety. She also reports non-productive 
cough, though reports sensations of congestion.  
.  
ROS: As above. Denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, sore throat, cough, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
PMH:  
-ARDS [___] s/p lung biopsy in setting of hospitalization 
for spinal fusion [also w/ MRSA wound infection]  
-Bronchiectasis (noted on CT ___  
-Obstructive apnea.  
-Osteoarthritis.  
-Macular degeneration.  
-History of migraines.  
-History of significant anemia that is thought to be due to GI  
losses although this is currently being evaluated.  
-Very mild pharyngeal dysphagia characterized by intermittent 
incomplete epiglottic deflection (video swallow study on 
___  
-Hiatal hernia.  
-Status post spinal fusion  
-SVT s/p ablation  
-Anxiety  
.  
PSH: Notable for cataract surgery, lung biopsy, cholecystectomy, 
appendectomy and exploratory laparotomy. 
 
Social History:
___
Family History:
She has two siblings, none with pulmonary  
disease. Her mother died of a myocardial infarction at age ___.  
Her father died at age ___ after suffering a stroke. 
 
Physical Exam:
Admission:
GENERAL - anxious appearing woman in mild distress, otherwise 
comfortable, appropriate, cooperative with exam  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear, 
nasal exam deferred to patient discomfort  
NECK - supple, no thyromegaly, no JVD  
LUNGS - respirations ___ be limited by positioning (pt 
has difficulty straightening her torso/back ___ spinal stenosis) 
otherwise CTA bilat with ?decreased breath sounds on left toward 
axilla, no r/rh/wh, good air movement, resp unlabored, no 
accessory muscle use, normal phonation  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout

Discharge:
GENERAL - middle-aged woman in no apparent distress, otherwise 
comfortable, appropriate, cooperative with exam  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear, 
nasal exam deferred to patient discomfort  
NECK - supple, no thyromegaly, no JVD  
LUNGS - mildly ?decreased breath sounds on left toward axilla, 
mild crackles over right lower lobe, otherwise no r/rh/wh, good 
air movement, resp unlabored, no accessory muscle use, normal 
phonation  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout

 
Pertinent Results:
Admission:
___ 09:30PM BLOOD WBC-6.0 RBC-3.29* Hgb-9.5* Hct-29.3* 
MCV-89 MCH-29.0 MCHC-32.5 RDW-17.5* Plt ___
___ 09:30PM BLOOD Plt ___
___ 09:30PM BLOOD Glucose-127* UreaN-14 Creat-0.8 Na-138 
K-4.3 Cl-105 HCO3-21* AnGap-16
___ 09:30PM BLOOD Calcium-8.5 Phos-3.5 Mg-2.3

Discharge:
___ 06:25AM BLOOD WBC-6.0 RBC-3.52* Hgb-10.1* Hct-31.6* 
MCV-90 MCH-28.8 MCHC-32.0 RDW-17.5* Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-108* UreaN-11 Creat-0.8 Na-138 
K-4.7 Cl-101 HCO3-28 AnGap-14
___ 06:25AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.2

Imaging:
CT Chest ___
___ year old woman with recent acute shortness of breath. History 
of ARDS and  
   bronchiectasis with normal CXR at ___ ___. 
REASON FOR THIS EXAMINATION: 
   evaluate for pulmonary embolism and acute infiltrate  
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

 
 
Final Report 
INDICATION: Patient with shortness of breath, assess for 
pulmonary embolus. 
  
COMPARISONS: Chest CT of ___. 
  
TECHNIQUE: MDCT-acquired contiguous images through the chest 
were obtained 
with 2-mm slice thickness with and without intravenous contrast. 
Coronally 
and sagittally reformatted images were displayed. 
  
FINDINGS: 
  
There is no perfusion defect involving pulmonary arterries to 
suggest 
pulmonary embolus. The aorta is of normal caliber. There is no 
evidence of 
aortic dissection. Mild coronary artery calcifications are 
redemonstrated.  There is no pericardial effusion. Heart is 
mildly enlarged. There is no 
axillary lymphadenopathy. There are numerous mediastinal lymph 
nodes, none of which meet CT criteria for pathologic 
enlargement, unchanged.  
Tracheobronchial tree appears patent to subsegmental levels.  
  
Post-surgical changes related to right upper biopsy are 
redemonstrated with
local scarring and bronchiectasis. The lingular consolidation 
appears 
long-extending. There are diffuse bilateral ground-glass 
opacities, which 
appear new from ___ exam. There is no pleural effusion or 
pneumothorax. 

A 3.4 x 1.9 cm opacity of the right upper lobe is new from prior 
exam and 
likely represents an infectious focus. A 7-mm nodular opacity 
involving the left upper lobe also appears new (2:21). 
Bibasilar atelectasis is noted. 
  
Large hiatal hernia is unchanged. This study is not tailored for 

subdiaphragmatic evaluation; however, visualized portions of 
upper abdominal organs are unremarkable. Gallbladder is 
surgically absent. 
  
OSSEOUS STRUCTURES:  
  
Extensive degenerative joint changes involving the thoracic 
spine are noted.  Linear lucencies involving bilateral pedicles 
of the thoracic vertebral body (2:46) are present, which likely 
correspond to the site of prior hardware 
placement, unchanged. 
  
  
IMPRESSION: 
  
1. No evidence of pulmonary embolus or acute aortic syndrome. 
  
2. Diffuse bilateral ground-glass opacities and biapical nodular 
opacities, are new since ___ exam. These findings are 
concerning for infection or edema. The lingular consolidation 
appears long-extending. Post-surgical changes related to right 
upper lung biopsy with associated bronchiectasis and scarring is 
stable. 
  
3. Large hiatal hernia, unchanged. 
 

 
Brief Hospital Course:
___ w/PMHx chronic bronchiectasis admitted from pulmonary clinic 
with worsening malaise, dyspnea noted to desaturate with 
ambulation and CT chest demonstrating worsening ground glass 
opacities consistent with PNA. 

Active issues:
# PNA on chronic bronchectasis  
The patient was admitted directly from pulmonary clinic based on 
her symptom profile and the initial read of her chest CT scan. 
On arrival to the floor she was slightly anxious and reported 
dyspnea.  Her oxygen saturation while in bed was 98% on room 
air, but the patient reported that she still did not feel like 
she was getting enough air. An order was placed for albuterol 
and ipratropium nebs in order to improve airflow and ideally 
reduce her subjective sensation of dyspnea.

As part of her workup for pneumonia, blood and sputum cultures 
were sent for analysis, as were serum chemistries. Per 
pulmonology recs, the patient was started on empiric HCAP 
coverage, which entailed Vancomycin 1000 mg IV Q 12H, Cefepime 2 
g IV Q8H, and Azithromycin 500 mg PO initially (switched to 
250mg after first dose). A CPAP was administered to the patient 
at her home settings.

The next morning, the patient reported that her dyspnea had 
decreased, and she appeared less anxious.  Per the patient's 
pulmonologist, Cefepime was discontinued. A PICC line was 
placed, and after discussion with the patient and her family, 
she was discharged with home administration of IV vancomycin via 
___.

# Palpitations  
The patient has a history of SVT treated with sotalol, and was 
very direct in stating her wishes to be maintained on this 
medication in addition to her atenolol.  Given the potential 
interaction between Azithromycin and Sotalol, the sotalol was 
initially held while the atenolol was continued. Prior to 
discharge, the patient was restarted on sotalol with before and 
after ECGs to ensure that there was no change in the QT 
interval. The patient was discharged on her original doses of 
the sotalol and atenolol without further complaint of 
palpitations.

Chronic issues:
# OSA  
CPAP was used at the patient's home settings. There was no 
change in the course of this condition during the 
hospitalization.

# Anxiety  
The patient's home duloxetine and alprazolam doses were 
continued, and this issue remained stable throughout her stay.
 
Medications on Admission:
alprazolam 0.25 mg 2 Tablet PO BID, 1mg tablet PO QHS  
atenolol 100 mg PO daily  
doxycycline hyclate 100 mg Capsule bid  
duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two PO BID 
fluticasone 50 mcg Spray, Suspension bid  
ipratropium-albuterol 18 mcg-103 mcg (90 mcg)/Actuation Aerosol  

2 puffs four times a day as needed for shortness of breath or 
wheezing  
pantoprazole [Protonix]  
sotalol 120 mg BID  
sumatriptan succinate  

 
Discharge Medications:
1. Outpatient Lab Work
Please draw vancomycin trough levels after the third dose and 
once per week for subsequent dose. Please draw LFTs, CBC, Chem-7 
concomittantly.
Please send results to Dr. ___ at ___ pulmonary 
___.  
PHONE: ___- LUNG (5864)
FAX: (___
2. vancomycin in D5W 1 gram/200 mL Piggyback Sig: Two (2)  
Intravenous Q 12H (Every 12 Hours).
Disp:*28 doses* Refills:*0*
3. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen. 
4. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN. 
5. sotalol 80 mg Tablet Sig: 1.5 Tablets PO BID (2 times a day). 
 
6. azithromycin 250 mg Tablet Sig: One (1) Tablet PO once a day 
for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
7. alprazolam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)). Tablet(s) 
8. alprazolam 0.25 mg Tablet Sig: 0.5 Tablet PO AT NOON ().  
9. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
10. atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

11. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
12. sumatriptan succinate 25 mg Tablet Sig: Four (4) Tablet PO 
ONCE (Once) as needed for headache for 1 doses.  
13. alprazolam 0.25 mg Tablet Sig: Two (2) Tablet PO QAM (once a 
day (in the morning)).  
14. ipratropium-albuterol ___ mcg/Actuation Aerosol Sig: Two 
(2)  Inhalation four times a day as needed for shortness of 
breath or wheezing.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia (suspected healthcare associated)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital from your pulmonologist's 
office for shortness of breath and suspicion of a pneumonia. 
During your stay you were treated with albuterol and ipratropium 
inhalers in order to make your breathing more comfortable. Per 
the recommendations of your pulmonologist, you were started on 
several antibiotics for pneumonia, including azithromycin (by 
mouth), and vancomycin and cefepime by IV. 

Due to a potentially harmful interaction between azithromycin 
and sotalol, it was necessary to hold your home dose of sotalol 
until an electrocardiogram could be taken before and after your 
sotalol was given.

No changes have been made to your home medications; however, in 
order to continue your course of antibiotics, it was necessary 
to administer a PICC line, a type of IV that will allow you to 
continue receiving IV antibiotics at home. You will receive IV 
antibiotics at home via the assistance of a ___.

The following medications were added to your medication regimen:
- Vancomycin 1000mg via IV, twice per day for two weeks
  - this will be administered by your ___
- Azithromycin 250 mg by mouth once a day for three more days

In the event that you begin feeling feverish, weak, or short of 
breath, please contact your doctor, or go to the nearest 
emergency room.
 
Followup Instructions:
___